US05705502
15.1 g (0.0567 mmol) of 3-trifluoromethyl-phenyl-guanidine nitrate and 2.84 g (70.9 mmol) of sodium hydroxide are added to a suspension of 10 g (56.7 mmol) of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one [described in EP-A-0 233 461] in 300 ml of isopropanol The reaction mixture is boiled under reflux for 24 hours. After cooling, the product is isolated by filtration, washed with water and dried at 60° under HV. N-(3-trifluoromethyl-phenyl)-4-pyridyl-2-pyrimidineamine is obtained; m.p. 197°-198°, Rf =0.58 (ethyl acetate).

reactant | 3-trifluoromethyl-phenyl-guanidine nitrate | 0.0567 mmol, 15.1 g | [N+](=O)(O)[O-].FC(C=1C=C(C=CC1)NC(=N)N)(F)F
reactant | sodium hydroxide | 70.9 mmol, 2.84 g | [OH-].[Na+]
reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | 56.7 mmol, 10 g | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | N-(3-trifluoromethyl-phenyl)-4-pyridyl-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=NC=C1)(F)F | C16H11F3N4
